US09340506B2
To a solution of sodium hydride (1.7 g, 44.11 mmol) in tetrahydrofuran (50 mL) was added solution of 2-fluoro-5-hydroxy benzoic acid methyl ester (5 g, 29.41 mmol) in tetrahydrofuran (50 mL) under argon atmosphere and stirred for 15 minutes. A solution of 2-amino-5-bromothiazole (5.2 g, 29.41 mmol) in tetrahydrofuran (47 mL) was added dropwise over a period of 30 min and stirred at room temperature for 4 hrs. Reaction mixture was poured into ice cold water (300 mL) extracted with ethyl acetate (3×200 mL), combined organic layers were washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Crude compound was purified by silica gel column chromatography using 40% ethyl acetate in hexane as eluent to afford pure 5-[(2-amino-5H-thiazol-5-yl)oxy]-2-fluoro-benzoic acid methyl ester. (2.5 g).

reactant | sodium hydride | 44.11 mmol, 1.7 g | [H-].[Na+]
reactant | 2-fluoro-5-hydroxy benzoic acid methyl ester | 29.41 mmol, 5 g | COC(C1=C(C=CC(=C1)O)F)=O | C8H7FO3
reactant | 2-amino-5-bromothiazole | 29.41 mmol, 5.2 g | NC=1SC(=CN1)Br | C3H3BrN2S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 47 mL | O1CCCC1 | C4H8O
product | 5-[(2-amino-5H-thiazol-5-yl)oxy]-2-fluoro-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OC1C=NC(S1)N)F)=O | C11H11FN2O3S
